US06767922B2
Preparation of N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-(ethoxycarbonyl)methylurea
A solution of 3-amino-6-chloro-2-hydroxybenzenesulfonamide (170 mg, 0.76 mmol) and ethyl isocyanatoacetate (103 μL, 0.92 mmol) in 1.5 mL of N,N-dimethyl-formamide was stirred at room temperature for 20 hours. The mixture was diluted with ethyl acetate and washed with water to give the crude. Purification upon column chromatograph on silica gel, eluting with ethyl acetate/hexane (60/40, v/v), followed by Gilson HPLC separation, gave the desired product (20 mg, 7%). LC-MS (m/z) 352.0 (M+).

reactant | 3-amino-6-chloro-2-hydroxybenzenesulfonamide | 0.76 mmol, 170 mg | NC=1C(=C(C(=CC1)Cl)S(=O)(=O)N)O | C6H7ClN2O3S
reactant | ethyl isocyanatoacetate | 0.92 mmol, 103 μL | N(=C=O)CC(=O)OCC | C5H7NO3
solvent | N,N-dimethyl-formamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-(ethoxycarbonyl)methylurea | 20 mg, 7% | NS(=O)(=O)C=1C(=C(C=CC1Cl)NC(=O)NCC(=O)OCC)O | C11H14ClN3O6S
